US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-benzyloxy-n-propyl)-amide-hydrochloride
Prepared analogously to Example 25 from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-benzyloxy-n-propyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 61% of theory, C33H34N6O2 (546.7) Rf value: 0.19 (silica gel; dichloromethane/ethanol=4:1) ##EQU134##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-benzyloxy-n-propyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCCOCC1=CC=CC=C1 | C33H31N5O2
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-benzyloxy-n-propyl)-amide-hydrochloride | Yield: 61% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCCOCC1=CC=CC=C1 | InChI=1S/C33H34N6O2.ClH/c1-38-30-18-15-26(21-29(30)37-31(38)22-36-27-16-13-25(14-17-27)32(34)35)33(40)39(28-11-6-3-7-12-28)19-8-20-41-23-24-9-4-2-5-10-24;/h2-7,9-18,21,36H,8,19-20,22-23H2,1H3,(H3,34,35);1H
